US06641990B1
3,5-Dichloro-4-dodecyloxybenzoic acid, (3)
Methyl 3,5-dichloro-4-dodecyloxybenzoate, (˜0.78 mol, as above) was dissolved in methanol (1000 mL) and THF (500 mL). 85%-Potassium hydroxide (100 g, 1.52 mol) was dissolved in water (200 mL) and added to the solution. The starting material oiled out, but on gentle heating dissolution was achieved. After stirring at room temperature for 15 minutes the solution was poured into ice cold 2N-HCl with good stirring whereupon the product precipitated out. The white solid was filter off, washed well with water, and air-dried to remove as much of the water as possible. The solid was then suspended in acetonitrile (˜1000 mL) and stirred mechanically for about 1 hr. The solid was then filtered off washed with acetonitrile and air-dried. Yield, 290.6 g.

reactant | Methyl 3,5-dichloro-4-dodecyloxybenzoate | ClC=1C=C(C(=O)OC)C=C(C1OCCCCCCCCCCCC)Cl | C20H30Cl2O3
reactant | Potassium hydroxide | 1.52 mol, 100 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | methanol | 1000 mL | CO | CH4O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | water | 200 mL | O | H2O
product | 3,5-Dichloro-4-dodecyloxybenzoic acid | ClC=1C=C(C(=O)O)C=C(C1OCCCCCCCCCCCC)Cl | C19H28Cl2O3
